US06326369B1
Ethyl 2,9-diethoxycarbonylnonanate
Diethyl malonate (9.85 g, 61.5 mmols) was added to an ethanol (170 ml) solution of sodium ethoxide (4.61 g, 67.7 mmols) with cooling with ice, and then stirred for 15 minutes at room temperature, and thereafter ethyl 8-bromooctanoate (17.0 g, 67.7 mmols) was added thereto. The reaction mixture was heated under reflux for 2 hours, and then an aqueous saturated ammonium chloride solution was added thereto, and extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution, then dried, and concentrated in vacuo. The thus-obtained crude product was purified by silica gel column chromatography (hexane:ethyl acetate=20:1) to obtain the entitled compound (13.7 g) as an oil.

reactant | Diethyl malonate | 61.5 mmols, 9.85 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium ethoxide | 67.7 mmols, 4.61 g | [O-]CC.[Na+]
reactant | ethyl 8-bromooctanoate | 67.7 mmols, 17.0 g | BrCCCCCCCC(=O)OCC | C10H19BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 170 ml | C(C)O | C2H6O
product | Ethyl 2,9-diethoxycarbonylnonanate | 13.7 g | C(C)OC(=O)C(C(=O)OCC)CCCCCCCC(=O)OCC | C17H30O6
